US07855290B2
4-(2-Fluoro-4-{[1-(4-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridine-2-carboxamide
To a solution of 1-(4-fluorophenylaminocarbonyl)cyclopropanecarboxylic acid (5.58 g) in tetrahydrofuran (60 ml) was added dropwise triethylamine (4.18 ml) while cooling in an ice water bath under a nitrogen atmosphere, followed by stirring for 15 min. To the reaction mixture, was then added thionyl chloride (2.0 ml), followed by stirring at the same temperature for 60 min. To the reaction mixture was added a suspension of 4-(4-amino-2-fluorophenoxy)pyridine-2-carboxamide (4.945 g) and triethylamine (4.18 ml) in tetrahydrofuran (50 ml) while cooling in an ice water bath under a nitrogen atmosphere, followed by stirring for 2 hr. The reaction was allowed to warm up to room temperature, followed by stirring overnight. The reaction mixture was partitioned after addition of ethyl acetate (100 ml) and a 1N aqueous solution of sodium hydroxide (100 ml). The organic layer was washed with a 2N aqueous solution of sodium hydroxide (100 ml, 3 times), 1N hydrochloric acid (100 ml, twice) and brine (100 ml) in this order, and dried over anhydrous sodium sulfate. The organic layer was filtered and the filtrate was concentrated under reduced pressure. To the resultant residue (8.3 g) were added ethyl acetate (20 ml) and heptane (5 ml) to precipitate a solid. After diluting with addition of ethyl acetate (20 ml), the solid was collected by filtration with suction, washed with ethyl acetate-heptane (16 ml-2 ml). Drying under aeration with suction on a paper filter provided the titled compound as pale brown powder (3.73 g, 41%). The filtrate was concentrated under reduced pressure, and ethyl acetate (20 ml) and heptane (4 ml) were again added to the residue (3.6 g) to precipitate a solid. The solid was collected by filtration with suction. Drying under aeration with suction on a paper filter provided the titled compound as pale brown powder (216 mg, 2.4%). The filtrate was further concentrated under reduced pressure, and the residue (3.06 g) was purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate). Fractions containing the target compound were concentrated under reduced pressure to provide the titled compound as pale brown powder (885 mg, 9.8%).

reactant | 1-(4-fluorophenylaminocarbonyl)cyclopropanecarboxylic acid | 5.58 g | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O | C11H10FNO3
reactant | triethylamine | 4.18 ml | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 2.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(4-amino-2-fluorophenoxy)pyridine-2-carboxamide | 4.945 g | NC1=CC(=C(OC2=CC(=NC=C2)C(=O)N)C=C1)F | C12H10FN3O2
reactant | triethylamine | 4.18 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-(2-Fluoro-4-{[1-(4-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridine-2-carboxamide | 3.73 g, 41% | FC1=C(OC2=CC(=NC=C2)C(=O)N)C=CC(=C1)NC(=O)C1(CC1)C(NC1=CC=C(C=C1)F)=O | C23H18F2N4O4
